US04536508
1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol acetate
A solution of 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol (100 mg) in glacial acetic acid (5 ml) was heated under reflux for 8 h. The mixture was evaporated and the residue was triturated with ether to give the title compound as a white solid (97 mg) m.p. 119°-20°. tlc. System B,Rf 0.8.

reactant | 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol | 100 mg | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C20H31N5O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanol acetate | 97 mg | C(C)(=O)OCC1=NN(C(=N1)NCCCCOC1=CC(=CC=C1)CN1CCCCC1)C | C22H33N5O3
